### PR TITLE
add counterexample to Erdős 931

### PR DESCRIPTION
**Pull request by mo271**
and rephrase variant more carefully, allowing for a finite number of counterexamples, following the update to the website

### CODE REVIEW

File: FormalConjectures/ErdosProblems/931.lean [hunk 1]
```diff
@@ -39,14 +39,28 @@ theorem erdos_931 (k₁ k₂ : ℕ) (h₁ : k₂ ≤ k₁) (h₂ : 3 ≤ k₂) :
...
 $n_2 > 2(n_1 + k_1)$.
+It is an open queston if this true permitting a finite number of counterexamples.
 -/
 @[category research open, AMS 11]
-theorem erdos_931.variants.necessary_cond (k₁ k₂ n₁ n₂ : ℕ) (h₁ : k₂ ≤ k₁) (h₂ : 3 ≤ k₂)
-    (h₃ : n₁ + k₁ ≤ n₂) (h₄ : (∏ i ∈ Finset.Icc 1 k₁, (n₁ + i)).primeFactors =
-      (∏ j ∈ Finset.Icc 1 k₂, (n₂ + j)).primeFactors) :
-    2 * (n₁ + k₁) < n₂ :=
+theorem erdos_931.variants.additional_condition (k₁ k₂ : ℕ) (h₁ : k₂ ≤ k₁) (h₂ : 3 ≤ k₂):
+      {(n₁, n₂) | n₁ + k₁ ≤ n₂ ∧ n₂ ≤ 2 * (n₁ + k₁) ∧
```
Comment (eric-wieser) [inline FormalConjectures/ErdosProblems/931.lean]:
```suggestion
theorem erdos_931.variants.additional_condition (k₁ k₂ : ℕ) (h₁ : k₂ ≤ k₁) (h₂ : 3 ≤ k₂) :
    {(n₁, n₂) | n₁ + k₁ ≤ n₂ ∧ n₂ ≤ 2 * (n₁ + k₁) ∧
```

File: FormalConjectures/ErdosProblems/931.lean [hunk 2]
```diff
@@ -39,14 +39,28 @@ theorem erdos_931 (k₁ k₂ : ℕ) (h₁ : k₂ ≤ k₁) (h₂ : 3 ≤ k₂) :
...
+      (∏ i ∈ Finset.Icc 1 k₁, (n₁ + i)).primeFactors =
+      (∏ j ∈ Finset.Icc 1 k₂, (n₂ + j)).primeFactors}.Finite :=
   sorry
 
+/--
+In fact there exist counterexamples, like this one found by AlphaProof.
+-/
+@[category research solved, AMS 11]
+theorem erdos_931.variants.additional_condition_nonempty : ∃ (k₁ k₂ : ℕ), ∃ (_h₁ : k₂ ≤ k₁), ∃ (_h₂ : 3 ≤ k₂),
+  {(n₁, n₂) | n₁ + k₁ ≤ n₂ ∧ n₂ ≤ 2 * (n₁ + k₁) ∧
```
Comment (eric-wieser) [inline FormalConjectures/ErdosProblems/931.lean:56]:
```suggestion
    {(n₁, n₂) | n₁ + k₁ ≤ n₂ ∧ n₂ ≤ 2 * (n₁ + k₁) ∧
```

Comment (mo271) [reply FormalConjectures/ErdosProblems/931.lean:56]: I will fix all intentation, one sec...

File: FormalConjectures/ErdosProblems/931.lean [hunk 3]
```diff
@@ -39,14 +39,28 @@ theorem erdos_931 (k₁ k₂ : ℕ) (h₁ : k₂ ≤ k₁) (h₂ : 3 ≤ k₂) :
...
+      (∏ i ∈ Finset.Icc 1 k₁, (n₁ + i)).primeFactors =
+      (∏ j ∈ Finset.Icc 1 k₂, (n₂ + j)).primeFactors}.Nonempty := by
+  use 10, 3, (by norm_num), (by norm_num)
+  use (0, 13)
+  norm_num [Finset.prod_Icc_succ_top]
+  norm_num +decide [Nat.primeFactors, Nat.primeFactorsList]
```
Comment (eric-wieser) [inline FormalConjectures/ErdosProblems/931.lean:62]: Can you update the readme to make it clear whether this repo accepts contributions of proofs?

Comment (mo271) [reply FormalConjectures/ErdosProblems/931.lean:62]: yes, I added #12. I think some discussion is needed to get some clarity here.

File: FormalConjectures/ErdosProblems/931.lean [hunk 4]
```diff
@@ -32,21 +32,35 @@ have the same prime factors?
 @[category research open, AMS 11]
 theorem erdos_931 (k₁ k₂ : ℕ) (h₁ : k₂ ≤ k₁) (h₂ : 3 ≤ k₂) :
     { (n₁, n₂) | n₁ + k₁ ≤ n₂ ∧
-      (∏ i ∈ Finset.Icc 1 k₁, (n₁ + i)).primeFactors =
-        (∏ j ∈ Finset.Icc 1 k₂, (n₂ + j)).primeFactors }.Finite :=
+    (∏ i ∈ Finset.Icc 1 k₁, (n₁ + i)).primeFactors =
+    (∏ j ∈ Finset.Icc 1 k₂, (n₂ + j)).primeFactors }.Finite :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/931.lean]: I'd indent a little more for readability:
```suggestion
      (∏ i ∈ Finset.Icc 1 k₁, (n₁ + i)).primeFactors =
      (∏ j ∈ Finset.Icc 1 k₂, (n₂ + j)).primeFactors }.Finite :=
```

File: FormalConjectures/ErdosProblems/931.lean [hunk 5]
```diff
@@ -32,21 +32,35 @@ have the same prime factors?
...
 -/
 @[category research open, AMS 11]
-theorem erdos_931.variants.necessary_cond (k₁ k₂ n₁ n₂ : ℕ) (h₁ : k₂ ≤ k₁) (h₂ : 3 ≤ k₂)
-    (h₃ : n₁ + k₁ ≤ n₂) (h₄ : (∏ i ∈ Finset.Icc 1 k₁, (n₁ + i)).primeFactors =
-      (∏ j ∈ Finset.Icc 1 k₂, (n₂ + j)).primeFactors) :
-    2 * (n₁ + k₁) < n₂ :=
+theorem erdos_931.variants.additional_condition (k₁ k₂ : ℕ) (h₁ : k₂ ≤ k₁) (h₂ : 3 ≤ k₂):
+    {(n₁, n₂) | n₁ + k₁ ≤ n₂ ∧ n₂ ≤ 2 * (n₁ + k₁) ∧
+    (∏ i ∈ Finset.Icc 1 k₁, (n₁ + i)).primeFactors =
+    (∏ j ∈ Finset.Icc 1 k₂, (n₂ + j)).primeFactors}.Finite :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/931.lean]:
```suggestion
      (∏ i ∈ Finset.Icc 1 k₁, (n₁ + i)).primeFactors =
      (∏ j ∈ Finset.Icc 1 k₂, (n₂ + j)).primeFactors}.Finite :=
```

File: FormalConjectures/ErdosProblems/931.lean [hunk 6]
```diff
@@ -32,21 +32,35 @@ have the same prime factors?
...
-      (∏ i ∈ Finset.Icc 1 k₁, (n₁ + i)).primeFactors =
-        (∏ j ∈ Finset.Icc 1 k₂, (n₂ + j)).primeFactors }.Finite :=
+    (∏ i ∈ Finset.Icc 1 k₁, (n₁ + i)).primeFactors =
+    (∏ j ∈ Finset.Icc 1 k₂, (n₂ + j)).primeFactors }.Finite :=
   sorry
 
 /--
 Erdős thought perhaps if the two products have the same factors then
 $n_2 > 2(n_1 + k_1)$.
+It is an open queston if this true permitting a finite number of counterexamples.
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/931.lean]:
```suggestion
It is an open question whether this is true when allowing a finite number of counterexamples.
```
